US07371747B2
Synthesis of trans-N-cyanomethyl-2-(4-benzylsulfanylmethylbenzenesulfonylmethyl)-cyclohexanecarboxamide
Cesium carbonate (0.114 g, 0.35 mmol) was added to a solution of trans-methanesulfonic acid 4-[2-(cyanomethylcarbamoyl)-cyclohexylmethanesulfonyl]-benzyl ester (0.150 g, 0.35 mmol) and benzyl mercaptan (0.041 mL, 0.35 mmol) in acetone (4 mL). The reaction mixture was stirred overnight at 50° C. The solids were removed by filtration and washed with warm acetone. The combined filtrates were concentrated by rotary evaporation. Purification of the residue by silica gel chromatography using a gradient of 0%-20% ethyl acetate in dichloromethane yielded the title compound as a white solid.

reactant | Cesium carbonate | 0.35 mmol, 0.114 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | trans-methanesulfonic acid 4-[2-(cyanomethylcarbamoyl)-cyclohexylmethanesulfonyl]-benzyl ester | 0.35 mmol, 0.150 g | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)CS(=O)(=O)C1=CC=C(COS(=O)(=O)C)C=C1 | C18H24N2O6S2
reactant | benzyl mercaptan | 0.35 mmol, 0.041 mL | C(C1=CC=CC=C1)S | C7H8S
solvent | acetone | 4 mL | CC(=O)C | C3H6O
product | trans-N-cyanomethyl-2-(4-benzylsulfanylmethylbenzenesulfonylmethyl)-cyclohexanecarboxamide | C(#N)CNC(=O)[C@H]1[C@@H](CCCC1)CS(=O)(=O)C1=CC=C(C=C1)CSCC1=CC=CC=C1 | C24H28N2O3S2
